US06284923B1
1-[(3-Hydroxy-4-methoxyphenyl)aminosulfonyl]-2,3,4-trifluorobenzene.
The title compound was prepared in a manner similar to that described in Example 1 by replacing 4-fluoro-3-nitrophenylsulfonyl chloride with 2,3,4-trifluorophenylsulfonyl chloride and replacing p-anisidine with 3-hydroxy-4-methoxyaniline. 1H-NMR (CDCl3): δ 7.55 (1H, m), 7.00 (1H, m), 6.70 (2H, m), 6.60 (2H, m), 5.61 (1H, s), 3.83 (3H, s). Anal. Calcd. for C13H10F3NO4S: C, 46.85; H, 3.02; N, 4.20; S, 9.62. Found: C, 46.79; H, 3.03; N, 4.24; S, 9.53.

reactant | 2,3,4-trifluorophenylsulfonyl chloride | FC1=C(C=CC(=C1F)F)S(=O)(=O)Cl | C6H2ClF3O2S
reactant | 3-hydroxy-4-methoxyaniline | OC=1C=C(N)C=CC1OC | C7H9NO2
product | 1-[(3-Hydroxy-4-methoxyphenyl)aminosulfonyl]-2,3,4-trifluorobenzene | OC=1C=C(C=CC1OC)NS(=O)(=O)C1=C(C(=C(C=C1)F)F)F | C13H10F3NO4S
